US07579451B2
Step H: 5′-O-(4,4′-Dimethoxitrityl)-2′-O-(tert-butyldimethylsilyl)-N-benzoyl-5-methylcytidine
Anhydrous pyridine (3.6 mL) was added to a solution of 5′-O-(4,4′-dimethoxitrityl)-N-benzoyl-5-methylcytidine (7.06 g, 10.64 mmol) and AgNO3 (2.17 g, 12.75 mmol) in dry THF (71 mL) and stirred at room temperature for 20 min under an argon atmosphere. Followed by addition of tert-butyldimethylsilyl chloride (1.89 g, 12.81 mmol) in dry THF (6 mL) and stirred at the same temperature for 2-3 h. The solids were filtered off and the filtrate was concentrated to a crude residue which was applied to a column of silica gel eluted with hexane-ethyl acetate (3:1) to give a pure title compound (3.04 g, 37%), and a mixture of 2′- and 3′-isomers (3.04 g) as amorphous solid. 1H-NMR (DMSO-d6, 400 MHz): δ 12.96 (br, 1H), 8.20-7.81 (m, 2H, ArH), 7.82 (s, 1H), 7.58-7.22 (m, 12H, ArH), 6.92-6.90 (m, 4H, ArH), 5.80 (d, 1H, J=3.6 Hz, H-1′), 5.20 (d, 1H, J=6.4 Hz, 3′-OH), 4.32 (dd, 1H, H-2′), 4.16-4.13 (dd, 1H, H-3′), 4.08 (m, 1H, H-4′), 3.78 (s, 6H, 2OCH3), 3.38-3.25 (m, 2H, H-5′), 1.80 (s, 3H, 5-CH3), 0.86 (s, 9H, t-Bu), 0.08 (s, 6H, 2 CH3).

reactant | pyridine | 3.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 5′-O-(4,4′-dimethoxitrityl)-N-benzoyl-5-methylcytidine | 10.64 mmol, 7.06 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)N=C(NC(C3=CC=CC=C3)=O)C(=C2)C)O)O)C=C1 | C38H37N3O8
reactant | tert-butyldimethylsilyl chloride | 12.81 mmol, 1.89 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 71 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | AgNO3 | 12.75 mmol, 2.17 g | [N+](=O)([O-])[O-].[Ag+]
product | 5′-O-(4,4′-Dimethoxitrityl)-2′-O-(tert-butyldimethylsilyl)-N-benzoyl-5-methylcytidine | 3.04 g, 37% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)N=C(NC(C3=CC=CC=C3)=O)C(=C2)C)O[Si](C)(C)C(C)(C)C)O)C=C1 | C44H51N3O8Si
